US09376441B2
1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one
To a solution of 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (235 mg, 0.857 mmol) and iodomethane (0.267 mL, 4.29 mmol) in DMF (10 mL) was added K2CO3 (592 mg, 4.29 mmol). The reaction mixture was stirred for 23 h and the product was then precipitated with water. The title compound was collected by filtration. LCMS-ESI+ (m/z): [M+H]+ calcd for C15H22BN2O3: 289.2; found: 289.1.

reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.857 mmol, 235 mg | CN1C(NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H19BN2O3
reactant | iodomethane | 4.29 mmol, 0.267 mL | IC | CH3I
reactant | K2CO3 | 4.29 mmol, 592 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | CN1C(N(C2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C)C)=O | C15H21BN2O3
